US03975443
A solution of 3,4-dichlorobenzoyl chloride (1.048 g., 5 mmole) in dry benzene (25 ml.) was added to a solution of N-methyl-2-methyl-2-dimethylamino hexylamine (0.754 g., 4.4 mmole) in dry benzene (25 ml.) and the solution heated under reflux for 1 hr.. The cooled solution was washed with 2N sodium hydroxide solution (4 × 100 ml.), water (4 × 100 ml.), dried (Na2SO4) and evaporated to a colourless oil (1.612 g.). The oil was dissolved in benzene, chromatographed on a column of alumina (25 × 3.0 cm.) eluting with benzene/ether 1:1, and fractions (9 × 100 ml.) were collected. Fractions 2-8 were combined and, on evaporation, afforded 3,4-dichloro-N-methyl-N-[2-methyl-2-dimethylamino-hexyl]benzamide as a colourless oil (1.282 g., 84%).

reactant | 3,4-dichlorobenzoyl chloride | 5 mmole, 1.048 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | N-methyl-2-methyl-2-dimethylamino hexylamine | 4.4 mmole, 0.754 g | CNCC(CCCC)(N(C)C)C | C10H24N2
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 3,4-dichloro-N-methyl-N-[2-methyl-2-dimethylamino-hexyl]benzamide | ClC=1C=C(C(=O)N(CC(CCCC)(N(C)C)C)C)C=CC1Cl | C17H26Cl2N2O
